Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
Midline placed ___
 
History of Present Illness:
___ M with PMH ___'s disease (communicating cavernous
ectasia, or congenital cystic dilatation of the intrahepatic
biliary tree) cirrhosis, recurrent cholangitis and sepsis, 
recent
PE with RV strain on lovenox who presents with dyspnea on
exertion and dry cough. 

Patient reports symptoms began on ___. He reports dyspnea 
with
walking around living room. He reports SOB improved with 
seating.
He reports exacerbation of dry cough with lying flat but does 
not
have worsening shortness of breath with lying flat. Patient
reports that SOB worsened with walking to bathroom overnight. 

He denies fevers, chills, chest pain, productive cough,
palpitations, lightheadedness. He denies blood in stool or black
stool. 

- In the ED, initial vitals were:
T 98.9 HR 86 BP 100/59 RR 22 SPO2 99% RA 
 
- Exam was notable for: JVP elevated to the mandible at 45
degrees, with HJR. Ext warm with 2+ pitting edema. No crackles
appreciated

- Labs were notable for:
136 | 103 | 23  
-------------- 188   AGap=13 
3.9 | 20  | 1.2  

WBC 4.4  HGB 10.3  PLT 40 
___: 16.0  PTT: 46.9  INR: 1.5  
LFTs not elevated. Tbili: 2.4  
Lactate 3.2 to 2.3 
proBNP: 775
Trop-T: <0.01 
UA wnl

- Studies were notable for: 
 - CTA chest : improvement in pulmonary arterial thrombus 
burden,
with persistent though small nonocclusive thrombus seen within
the distal left main pulmonary artery and basal segmental
branches. No substantial clot burden in the right pulmonary
artery. Persistent dilatation of the left main pulmonary artery
to 2.8 cm, otherwise no CT evidence of right heart strain. No
evidence of underlying pulmonary infarction.

- The patient was given:
Furosemide 40 mg, Ipratropium-Albuterol Neb 1 NEB

On arrival to the floor, the patient reports dyspnea on exertion
but no positional component with orthopnea or platypnea. No
subjective fevers/chills, abdominal pain, n/v/d, blood in the
stool, confusion. Reports his weight at home has been stable at
205 lb.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
-___ Syndrome with recurrent cholangitis and bacteremia, most 

recent from highly resistant E. coli treated with tigecycline 
(finished late ___  
-Cirrhosis    
-Depression  
-Osteopenia   
-Seasonal allergies  
-Inguinal hernia repair in ___
 
Social History:
___
Family History:
Mother has heart disease. Father died at age ___ from cancer and
there is no other liver disease in his family that is known.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: T 103.0 BP 99 / 62 HR 91 RR 18 SpO2 96 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: JVP to jaw at 45 degrees
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops. 
LUNGS: No rhonchi or rales. No increased work of breathing.
expiratory wheezing noted bilaterally
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, mildly distended but no notable
fluid wave, non-tender to deep palpation in all four quadrants. 
No ___ sign
EXTREMITIES: No clubbing, cyanosis. 1+ edema in b/l calves.
Pulses DP/Radial 2+ bilaterally. wwp
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. no 
asterixis.
able to recite days of week backwards

DISCHARGE EXAM:
===============
PHYSICAL EXAM:
==============
24 HR Data (last updated ___ @ 707)
    Temp: 97.6 (Tm 98.7), BP: 109/72 (96-109/60-72), HR: 69
(64-92), RR: 17 (___), O2 sat: 95% (95-97), O2 delivery: Ra  

GENERAL: Alert and interactive. In no acute distress.
CARDIAC: RRR no m/r/g
LUNGS: Bilateral wheezing
ABDOMEN: Soft, NT, ND, +BS

 
Pertinent Results:
ADMISSION LABS:
===============
___ 01:40PM BLOOD WBC-4.4 RBC-3.27* Hgb-10.3* Hct-31.5* 
MCV-96 MCH-31.5 MCHC-32.7 RDW-18.9* RDWSD-67.6* Plt Ct-40*
___ 01:40PM BLOOD Neuts-77.4* Lymphs-7.8* Monos-13.9* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-3.39 AbsLymp-0.34* 
AbsMono-0.61 AbsEos-0.01* AbsBaso-0.01
___ 01:40PM BLOOD ___ PTT-46.9* ___
___ 01:40PM BLOOD Glucose-188* UreaN-23* Creat-1.2 Na-136 
K-3.9 Cl-103 HCO3-20* AnGap-13
___ 01:40PM BLOOD ALT-17 AST-34 AlkPhos-97 TotBili-2.4*
___ 01:40PM BLOOD proBNP-775*
___:40PM BLOOD Albumin-3.3* Calcium-8.6 Phos-1.5* Mg-1.6
___ 01:40PM BLOOD Lactate-3.2*

IMAGING:
========
___ Imaging CHEST (PA & LAT) 
IMPRESSION:  
No interval change in cardiac silhouette size, no evidence of 
substantial 
pulmonary vascular congestion or pulmonary edema.  Overall 
slight improvement in lung aeration bilaterally.  No focal 
consolidation. 

___ Imaging CTA CHEST  
IMPRESSION:  
Overall improvement in pulmonary arterial thrombus burden, with 
persistent 
though smaller nonocclusive thrombus seen within the distal left 
main 
pulmonary artery and basal segmental branches.  No substantial 
clot burden in the right pulmonary artery.  Persistent 
dilatation of the left main pulmonary artery to 2.8 cm, 
otherwise no CT evidence of right heart strain.  No evidence of 
underlying pulmonary infarction. 

___ Imaging US ABD LIMIT, SINGLE OR 
FINDINGS:  
Targeted grayscale ultrasound images were obtained of the 4 
quadrants of the abdomen, revealing no ascites. 
IMPRESSION:  
No ascites. 
  

___ Cardiovascular Transthoracic Echo Report 
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
moderately enlarged. There is no evidence for an atrial septal 
defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal
cavity size. There is normal regional and global left 
ventricular systolic function. Quantitative biplane left 
ventricular ejection fraction is 74 % (normal 54-73%). There is 
no resting left ventricular outflow tract
gradient. Diastolic function could not be assessed. Normal right 
ventricular cavity size with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is normal. The aortic 
sinus diameter is normal for gender with normal ascending aorta 
diameter for gender. The aortic arch diameter is normal with a 
normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve leaflets (3) are 
mildly thickened. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal. There is 
mild [1+] tricuspid
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion. Compared with 
the prior TTE (images reviewed) of ___ , the estimated 
pulmonary artery systolic
pressure is now lower. The right ventricular cavity size is 
smaller.

___ Imaging MRCP (MR ABD ___ 
IMPRESSION: 
1. Cirrhosis with findings of portal hypertension, including 
marked 
splenomegaly and perigastric varices.  Saccular dilatation of 
the intrahepatic bile ducts involving the right hepatic lobe, 
similar to prior exams, compatible with known ___'s syndrome. 
No suspicious hepatic lesion. No evidence of active cholangitis. 


DISCHARGE LABS:
===============
___ 07:00AM BLOOD WBC-2.4* RBC-2.93* Hgb-9.2* Hct-28.5* 
MCV-97 MCH-31.4 MCHC-32.3 RDW-18.4* RDWSD-66.0* Plt Ct-56*
___ 07:00AM BLOOD Glucose-88 UreaN-13 Creat-1.0 Na-144 
K-3.9 Cl-107 HCO3-23 AnGap-14
___ 07:00AM BLOOD Calcium-8.5 Phos-3.3 Mg-1.5*
 
Brief Hospital Course:
___ M with PMH ___'s disease (communicating cavernous
ectasia, or congenital cystic dilatation of the intrahepatic
biliary tree) cirrhosis, recurrent cholangitis and sepsis, 
recent
PE with RV strain on lovenox who presents with dyspnea/ cough
found to have fever to 103 with blood cultures growing 
enterococcus.

TRANSITIONAL ISSUES:
====================
[ ] Please continue your IV antibiotics until ___
[ ] Please follow-up with your physicians as scheduled
[ ] Please reach out to your infectious disease doctor about 
restarting your prophylactic antibiotics once you finish your IV 
course.
[ ] Follow-up platelet levels and consider decreasing enoxaparin 
dose.

ACUTE/ACTIVE ISSUES:
====================
# Fever
# History of recurrent MDR cholangitis
Fever to 103 upon arrival to floor. No localized sx except 
cough, SOB but with recurrent episodes of cholangitis due to 
biliary ductal dilation from Caroli's disease. History of MDR 
infections with VRE bacteremia and Carbapenem resistant E. coli. 
Alternates suppressive augmentin with cefpodoxime at home. MRCP 
showed no evidence of cholangitis and was unrevealing for a 
cause, thus it was felt that the source of the bacteremia was 
transient gut translocation. Blood cultures returned positive 
for enterococcous. He was initially treated with 
Dapto/Cefepime/flagyl and then transitioned to zosyn for a ___, end date ___.

# Dyspnea on Exertion
# Pulmonary Hypertension
Patient presenting with DOE/dry cough with JVP elevation, ___
edema without e/o of pulm edema on exam or CXR overall 
concerning
for R heart failure. Known RV strain iso PE with PASP 50, 
however
patient on AC with lovenox and CTPE with improved clot burden. 
TTE showed improvement in right heart strain. Symptoms improved 
with diuresis.

# ___ syndrome 
# Cirrhosis
# Thrombocytopenia
Childs class B cirrhosis; MELD-Na 31 on admission (largely 
driven
by INR). History of hepatic encephalopathy on lactulose, varices
on Nadolol. No hx of ascites but on Lasix. EGD last admission
___ with 3 cords of grade I varices in distal esophagus,
nonbleeding, and portal hypertensive gastropathy. His home 
furosemide and nadolol were initially held in the setting of 
infection but were restarted prior to discharge.

# Lactic acidosis
Lactic 3.2 downtrended to 2.3 in ED without fluid. Concern for 
infection given fever and hx of recurrent cholangitis. Improved.

CHRONIC/STABLE ISSUES:
======================
# Depression: 
Continued home citalopram 20mg daily

> 30 minutes spent on discharge activities.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath 
2. aMILoride 10 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Lactulose 30 mL PO Q8H:PRN As needed to have ___ Bowel 
Movements per day 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Loratadine 10 mg PO DAILY 
7. Ursodiol 600 mg PO BID 
8. Sildenafil 50 mg PO DAILY:PRN sexual activity 
9. Nadolol 20 mg PO DAILY 
10. Magnesium Oxide 400 mg PO DAILY 
11. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
12. Pantoprazole 40 mg PO Q24H 
13. Enoxaparin Sodium 100 mg SC Q12H 
14. Furosemide 40 mg PO DAILY 
15. calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY 
16. Cefpodoxime Proxetil 200 mg PO Q12H 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H 
RX *acyclovir 400 mg 1 tablet(s) by mouth q8hr Disp #*12 Tablet 
Refills:*0 
2.  Piperacillin-Tazobactam 4.5 g IV Q8H  
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN Shortness of breath  
4.  aMILoride 10 mg PO DAILY  
5.  calcium carbonate-vitamin D3 600 mg(1,500mg) -400 unit oral 
DAILY  
6.  Citalopram 20 mg PO DAILY  
7.  Enoxaparin Sodium 100 mg SC Q12H  
8.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 allergic reaction 
Duration: 1 Dose  
9.  Furosemide 40 mg PO DAILY  
10.  Lactulose 30 mL PO Q8H:PRN As needed to have ___ Bowel 
Movements per day  
11.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
12.  Loratadine 10 mg PO DAILY  
13.  Magnesium Oxide 400 mg PO DAILY  
14.  Nadolol 20 mg PO DAILY  
15.  Pantoprazole 40 mg PO Q24H  
16.  Sildenafil 50 mg PO DAILY:PRN sexual activity  
17.  Ursodiol 600 mg PO BID  
18. HELD- Cefpodoxime Proxetil 200 mg PO Q12H  This medication 
was held. Do not restart Cefpodoxime Proxetil until you speak 
with your infectious disease doctor.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Enterococcus Bactermia 
Volume Overload

Secondary Diagnoses:
Caroli syndrome 
Cirrhosis
Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a privilege caring for you at ___. 

WHY WAS I IN THE HOSPITAL? 
- You were admitted to the hospital because you had a fever and 
we were worried tat you had an infection due to your liver 
disease.

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- While you were in the hospital we did some imaging which 
showed you did not have an infection in your biliary system.
- Some blood tests showed that you had bacteria in your blood.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL? 
- Continue to take all your medicines and keep your 
appointments. 

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___